US08497264B2
To a solution of 5-amino-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-2′-ol (200 mg, 0.506 mmol) in DMF (2529 μL) cesium carbonate (330 mg, 1.012 mmol), KI (25.2 mg, 0.152 mmol) and 2-fluoro-2-methylpropyl trifluoromethanesulfonate (125 mg, 0.556 mmol) were added sequentially and the resulting mixture was stirred overnight at RT. The mixture was diluted with 5 ml of water and stirred for 5 minutes. The solvents were decanted from a precipitated gummy solid. 10 ml of water was added and the mixture was stirred for 1 hr at RT at which point a fine precipitate formed. The solids were filtered, washed with water and dried on air for 3 hr, then overnight in vacuo to afford racemic 4′-fluoro-2′-(2-fluoro-2-methylpropoxy)-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (175 mg, 73% yield).

reactant | 5-amino-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-2′-ol | 0.506 mmol, 200 mg | NC1=NC2(C3=CC(=CC=C3OC=3C(=CC(=CC23)O)F)C=2C(=NC=CC2)F)COC1 | C21H15F2N3O3
reactant | DMF | 1.012 mmol, 2529 μL, 330 mg | CN(C)C=O | C3H7NO
reactant | 2-fluoro-2-methylpropyl trifluoromethanesulfonate | 0.556 mmol, 125 mg | FC(S(=O)(=O)OCC(C)(C)F)(F)F | C5H8F4O3S
solvent | water | 5 ml | O | H2O
product | racemic 4′-fluoro-2′-(2-fluoro-2-methylpropoxy)-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 175 mg, 73% yield | FC1=CC(=CC=2C3(C4=CC(=CC=C4OC12)C=1C(=NC=CC1)F)COCC(=N3)N)OCC(C)(C)F | C25H22F3N3O3
